US08664217B2
Potassium carbonate (0.22 g, 1.6 mmol) was added to a DMF solution (10 ml) of N-(3-iodopropyl)-2-nitro-N-[2-(1-oxo-1H-isoquinolin-2-yl)ethyl]benzenesulfonamide (0.57 g, 1.05 mmol) and 1-ethyl-7-hydroxy-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (0.33 g, 1.26 mmol), and stirred at room temperature overnight. The reaction mixture was added to ice water, and extraction with ethyl acetate was performed. The organic layer was washed with 1N-sodium hydroxide aqueous solution and water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1→0:1). The purified product was concentrated to dryness under reduced pressure to thereby obtain 0.49 g (yield: 69%) of N-[3-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yloxy)propyl]-2-nitro-N-[2-(1-oxo-1H-isoquinolin-2-yl)ethyl]benzenesulfonamide as a white amorphous solid.

reactant | Potassium carbonate | 1.6 mmol, 0.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | N-(3-iodopropyl)-2-nitro-N-[2-(1-oxo-1H-isoquinolin-2-yl)ethyl]benzenesulfonamide | 1.05 mmol, 0.57 g | ICCCN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CCN1C(C2=CC=CC=C2C=C1)=O | C20H20IN3O5S
reactant | 1-ethyl-7-hydroxy-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 1.26 mmol, 0.33 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)O | C14H18N2O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[3-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yloxy)propyl]-2-nitro-N-[2-(1-oxo-1H-isoquinolin-2-yl)ethyl]benzenesulfonamide | 0.49 g, yield: 69% | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCN(S(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])CCN2C(C1=CC=CC=C1C=C2)=O | C34H37N5O8S
